US08067457B2
To a solution of 5-amino-2-methoxypyridine (375 mg, 3.02 mmol) and K2CO3 (49 mg, 0.355 mmol) in ethanol (7 mL) at 80° C. was added a slurry of 1-benzyl-1-methyl-4-oxopiperidinium iodide in water (5 mL) over a 10 minute period. After 45 minutes, the reaction mixture was cooled and partitioned between dichloromethane (10 mL) and water. The organic layer was separated and the aqueous layer was washed with an addition portion of dichloromethane (10 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The resulting crude product was subjected to flash chromatography (1:1 Hexanes:EtOAc) to afford 1-(6-methoxypyridin-3-yl)piperidin-4-one (459 mg, 74%) as a light orange solid. 1H NMR (CDCl3) δ: 2.56 (t, J=5.7 Hz, 4H), 3.42 (t, J=5.7 Hz, 4H), 3.87 (s, 3H), 6.69 (d, J=9.3 Hz, 1H), 7.32 (dd, J=9.0, 3.0 Hz, 1H), 7.85 (d, J=3.0 Hz, 1H).

reactant | 5-amino-2-methoxypyridine | 3.02 mmol, 375 mg | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | K2CO3 | 0.355 mmol, 49 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-benzyl-1-methyl-4-oxopiperidinium iodide | [I-].C(C1=CC=CC=C1)[N+]1(CCC(CC1)=O)C
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 1-(6-methoxypyridin-3-yl)piperidin-4-one | 459 mg, 74% | COC1=CC=C(C=N1)N1CCC(CC1)=O | C11H14N2O2
